US07223791B2
A mixture of methyl 4-[5-(4-trifluoromethylphenyl)-3-isoxazolyl]benzoate (0.486 g), 1 M aqueous sodium hydroxide solution (4 ml), tetrahydrofuran (20 ml) and methanol (20 ml) was stirred at 60° C. for 1 hr. After cooling, the reaction mixture was poured into water and 1 M hydrochloric acid (15 ml) was added. The crystals were collected by filtration and recrystallized from ethanol to give 4-[5-(4-trifluoromethylphenyl)-3-isoxazolyl]benzoic acid (0.358 g, yield 77%) as a colorless crystalline powder. melting point: >300° C.

reactant | methyl 4-[5-(4-trifluoromethylphenyl)-3-isoxazolyl]benzoate | 0.486 g | FC(C1=CC=C(C=C1)C1=CC(=NO1)C1=CC=C(C(=O)OC)C=C1)(F)F | C18H12F3NO3
reactant | sodium hydroxide | 1 M, 4 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M, 15 ml | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 4-[5-(4-trifluoromethylphenyl)-3-isoxazolyl]benzoic acid | 0.358 g, yield 77% | FC(C1=CC=C(C=C1)C1=CC(=NO1)C1=CC=C(C(=O)O)C=C1)(F)F | C17H10F3NO3
